US07964643B2
Biphenyl-4-sulfonic acid-(5-hydroxypentyl)-pentyl-amide (ABD-185)
Using a method analogous to that described in Example 4, with biphenyl-4-sulfonic acid-(5-hydroxypentyl)-amide and bromopentane, reacted at 60° C. for 3 hours, the title compound was obtained as an amorphous white solid. δC (CDCl3, 62.9 MHz): 14.0, 22.3, 22.9, 28.4, 28.6, 28.9, 32.2, 48.2, 48.4, 62.7, 127.3, 127.6, 128.4, 129.1, 138.6, 139.4 and 145.2.

reactant | biphenyl-4-sulfonic acid-(5-hydroxypentyl)-amide | OCCCCCNS(=O)(=O)C1=CC=C(C=C1)C1=CC=CC=C1 | C17H21NO3S
reactant | bromopentane | BrCCCCC | C5H11Br
product | Biphenyl-4-sulfonic acid-(5-hydroxypentyl)-pentyl-amide | OCCCCCN(S(=O)(=O)C1=CC=C(C=C1)C1=CC=CC=C1)CCCCC | C22H31NO3S
